US04233299
0.94 gm (6 millimols) of ethyl iodide were added to a solution of 0.7 gm (2 millimols) of 4-hydroxy-N-(5-methyl-2-thiazolyl)-2H-1,2-benzothiazine-3-carboxamide-1,1-dioxide in 30 ml of methanol and 2.0 ml of 1N sodium hydroxide. The reaction mixture was stirred for 24 hours at room temperature, then neutralized and evaporated in vacuo. The residue was purified by column chromatography (Merck-silica gel 60, particle size: 0.2-0.5 mm; eluant: chloroform/ethanol 95:5), yielding 0.35 mgm (48% of theory) of 2-ethyl-4-hydroxy-N-(5-methyl-2-thiazolyl)-2H-1,2-benzothiazine-3-carboxamide-1,1-dioxide after recrystallization from xylene.

reactant | ethyl iodide | 6 millimols, 0.94 gm | C(C)I | C2H5I
reactant | 4-hydroxy-N-(5-methyl-2-thiazolyl)-2H-1,2-benzothiazine-3-carboxamide-1,1-dioxide | 2 millimols, 0.7 gm | OC1=C(NS(C2=C1C=CC=C2)(=O)=O)C(=O)NC=2SC(=CN2)C | C13H11N3O4S2
solvent | methanol | 30 ml | CO | CH4O
solvent | sodium hydroxide | 1N, 2.0 ml | [OH-].[Na+]
product | 2-ethyl-4-hydroxy-N-(5-methyl-2-thiazolyl)-2H-1,2-benzothiazine-3-carboxamide-1,1-dioxide | 48% | C(C)N1S(C2=C(C(=C1C(=O)NC=1SC(=CN1)C)O)C=CC=C2)(=O)=O | C15H15N3O4S2
